US06410562B1
2-{2-[1-(2,4-Dichlorobenzyl)-1H-indol-3-yl]-ethyl}4,5-dihydro-1H-imidazole
A 2M solution of trimethyl aluminium in toluene (3.32 ml) was diluted with dry toluene (30 ml), cooled to 0° C. and 1,2-diaminoethane (0.43 ml) was added. The mixture was brought to ambient temperature and a solution of 2.5 g of 3-[1-(2,4-Dichlorobenzyl)-1H-indol-3-yl]-propionic acid ethyl ester in dry toluene (20 ml) was added slowly. The reaction mixture was refluxed for 15 hours, cooled and carefully hydrolysed with water (20 ml). The organic phase was separated, dried over sodium sulphate and evaporated. The crude product was purified by column chromatography using successively methylene chloride/ethanol/aqueous ammonium hydroxide 50:49:1 and 50:43:7 respectively to yield the titled product.

reactant | trimethyl aluminium | C[Al](C)C
reactant | 1,2-diaminoethane | 0.43 ml | NCCN | C2H8N2
reactant | 3-[1-(2,4-Dichlorobenzyl)-1H-indol-3-yl]-propionic acid ethyl ester | 2.5 g | C(C)OC(CCC1=CN(C2=CC=CC=C12)CC1=C(C=C(C=C1)Cl)Cl)=O | C20H19Cl2NO2
reactant | water | 20 ml | O | H2O
solvent | toluene | 3.32 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{2-[1-(2,4-Dichlorobenzyl)-1H-indol-3-yl]-ethyl}4,5-dihydro-1H-imidazole | ClC1=C(CN2C=C(C3=CC=CC=C23)CCC=2NCCN2)C=CC(=C1)Cl | C20H19Cl2N3
